### PR TITLE
[Merged by Bors] - feat(Topology/MetricSpace): add separatesPoints_lipschitzWith_one

### PR DESCRIPTION
**Pull request by b-mehta**
Together with #41434 this can be strengthened, but for now the strongest version of the claim is added, and further versions can be added later if they're deemed helpful.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Topology/MetricSpace/Lipschitz.lean [hunk 1]
```diff
@@ -168,6 +168,14 @@ lemma _root_.Real.lipschitzWith_toNNReal : LipschitzWith 1 Real.toNNReal := by
   simpa only [NNReal.coe_one, dist_prod_same_right, one_mul, Real.dist_eq] using!
     lipschitzWith_iff_dist_le_mul.mp lipschitzWith_max (x, 0) (y, 0)
 
+/-- The set of functions which are 1-Lipschitz on a metric space separates points. -/
+theorem separatesPoints_lipschitzWith_one {E : Type*} [MetricSpace E] :
```
Comment (themathqueen) [inline Mathlib/Topology/MetricSpace/Lipschitz.lean]: make `E` explicit here?
But also, this is in the `LipschitzWith` namespace, I think it would be better in the root namespace? Otherwise it's `LipschitzWith...._lipschitzWith_...`

Comment (b-mehta) [reply Mathlib/Topology/MetricSpace/Lipschitz.lean]: Both good points!

File: Mathlib/Topology/MetricSpace/Lipschitz.lean [hunk 2]
```diff
@@ -168,6 +168,14 @@ lemma _root_.Real.lipschitzWith_toNNReal : LipschitzWith 1 Real.toNNReal := by
   simpa only [NNReal.coe_one, dist_prod_same_right, one_mul, Real.dist_eq] using!
     lipschitzWith_iff_dist_le_mul.mp lipschitzWith_max (x, 0) (y, 0)
 
+/-- The set of functions which are 1-Lipschitz on a metric space separates points. -/
+theorem _root_.separatesPoints_lipschitzWith_one (E : Type*) [MetricSpace E] :
+    Set.SeparatesPoints {f : E → ℝ | LipschitzWith 1 f} := by
```
Comment (themathqueen) [inline Mathlib/Topology/MetricSpace/Lipschitz.lean]: Do we not add spaces for the set?
```suggestion
    Set.SeparatesPoints { f : E → ℝ | LipschitzWith 1 f } := by
```

File: Mathlib/Topology/MetricSpace/Lipschitz.lean [hunk 3]
```diff
@@ -168,6 +168,14 @@ lemma _root_.Real.lipschitzWith_toNNReal : LipschitzWith 1 Real.toNNReal := by
   simpa only [NNReal.coe_one, dist_prod_same_right, one_mul, Real.dist_eq] using!
     lipschitzWith_iff_dist_le_mul.mp lipschitzWith_max (x, 0) (y, 0)
 
+/-- The set of functions which are 1-Lipschitz on a metric space separates points. -/
+theorem _root_.separatesPoints_lipschitzWith_one (E : Type*) [MetricSpace E] :
```
Comment (themathqueen) [inline Mathlib/Topology/MetricSpace/Lipschitz.lean]: Actually, let's put this in the `Set` namespace, since there are multiple definitions of `.SeparatesPoints`?
```suggestion
theorem _root_.Set.separatesPoints_lipschitzWith_one (E : Type*) [MetricSpace E] :
```
I guess another option would be to name it `setSeparatesPoints_`?

File: Mathlib/Topology/MetricSpace/Lipschitz.lean [hunk 4]
```diff
@@ -168,6 +168,14 @@ lemma _root_.Real.lipschitzWith_toNNReal : LipschitzWith 1 Real.toNNReal := by
   simpa only [NNReal.coe_one, dist_prod_same_right, one_mul, Real.dist_eq] using!
     lipschitzWith_iff_dist_le_mul.mp lipschitzWith_max (x, 0) (y, 0)
 
+/-- The set of functions which are 1-Lipschitz on a metric space separates points. -/
+theorem _root_.Set.separatesPoints_lipschitzWith_one (E : Type*) [MetricSpace E] :
+    Set.SeparatesPoints { f : E → ℝ | LipschitzWith 1 f } := by
+  intro x y hxy
+  refine ⟨(dist · y), LipschitzWith.dist_left _, ?_⟩
+  contrapose! hxy
+  apply eq_of_dist_eq_zero (by simpa using hxy)
```
Comment (themathqueen) [inline Mathlib/Topology/MetricSpace/Lipschitz.lean]: dot notation + golf + less defeq abuse with Set and prop:

```suggestion
    { f : E → ℝ | LipschitzWith 1 f }.SeparatesPoints :=
  fun _ y _ ↦ ⟨(dist · y), by simp [LipschitzWith.dist_left], by simpa⟩
```

File: Mathlib/Topology/MetricSpace/Lipschitz.lean [hunk 5]
```diff
@@ -168,6 +168,11 @@ lemma _root_.Real.lipschitzWith_toNNReal : LipschitzWith 1 Real.toNNReal := by
   simpa only [NNReal.coe_one, dist_prod_same_right, one_mul, Real.dist_eq] using!
     lipschitzWith_iff_dist_le_mul.mp lipschitzWith_max (x, 0) (y, 0)
 
+/-- The set of functions which are 1-Lipschitz on a metric space separates points. -/
+theorem _root_.Set.separatesPoints_lipschitzWith_one (E : Type*) [MetricSpace E] :
```
Comment (themathqueen) [inline Mathlib/Topology/MetricSpace/Lipschitz.lean:172]: I think a more accurate name would be:

```suggestion
theorem _root_.Set.separatesPoints_ofPred_lipschitzWith_one (E : Type*) [MetricSpace E] :
```
up to you though, so

maintainer delegate

Thanks!

**Review by ocfnash — APPROVED** [review]
@themathqueen 's naming point is valid but I think `separatesPoints_lipschitzWith_one` could only mean one thing so, being shorter, I prefer it.

bors merge
